US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 1-[3-amino-2-(benzyloxycarbonylamino)propionyl]piperidine to give N-[2-(benzyloxycarbonylamino)-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)piperidine-4-carboxamide in 44% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 1-[3-amino-2-(benzyloxycarbonylamino)propionyl]piperidine | NCC(C(=O)N1CCCCC1)NC(=O)OCC1=CC=CC=C1 | C16H23N3O3
product | N-[2-(benzyloxycarbonylamino)-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)piperidine-4-carboxamide | 44% yield | C(C1=CC=CC=C1)OC(=O)NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1 | C27H35N5O4
